US05677320
Methyl (2-methyl)3-thiophenecarboxylate
To a solution of 3.30 g (23.2 mmol) of 2-methyl-3-thiophenecarboxylic acid in 100 ml of acetone was added 16.04 g (116.1 mmol) of anhydrous potassium carbonate and 16.47 g (7.2 ml, 116.1 mmol) of methyl iodide. The reaction mixture was allowed to stir at room temperature for 20.25 hours. A white precipitate formed. The white precipitate was filtered, washed with ethyl ether and discarded. The filtrate was concentrated in vacuo, partitioned between 250 ml of water and 250 ml of pentane and the layers separated. The organic phase was washed with a saturated solution of Na2 SO3, dried over Na2SO4, filtered and concentrated by rotary evaporation to give the title compound as a yellow oil which was used without further purification.

reactant | 2-methyl-3-thiophenecarboxylic acid | 23.2 mmol, 3.30 g | CC=1SC=CC1C(=O)O | C6H6O2S
reactant | potassium carbonate | 116.1 mmol, 16.04 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 116.1 mmol, 7.2 ml, 16.47 g | CI | CH3I
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | Methyl (2-methyl)3-thiophenecarboxylate | CC=1SC=CC1C(=O)OC | C7H8O2S
